US07528147B2
But using 2.9 g of 2-iodo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine, 2.34 g of 1-tert-butyloxycarbonyl-5,7-dimethoxy-1H-indole-3 boronic acid and 19 ml of a saturated aqueous solution of sodium hydrogen carbonate in 63 ml of dimethylformamide, and 0.42 g of tetrakis(triphenylphosphine)palladium is added. After flash chromatography on a silica column [eluent: cyclohexane/ethyl acetate (70/30 by volume)], 0.26 g of 2-(5,7-dimethoxy-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine is thus obtained in the form of a solid, the characteristics of which are as follows:

reactant | 2-iodo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 2.9 g | IC1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C14H11IN2O2S
reactant | 1-tert-butyloxycarbonyl-5,7-dimethoxy-1H-indole-3 boronic acid | 2.34 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC(=CC(=C12)OC)OC)B(O)O | C15H20BNO6
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
solvent | dimethylformamide | 63 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.42 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(5,7-dimethoxy-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.26 g | COC=1C=C2C(=CNC2=C(C1)OC)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C24H21N3O4S
